US09062070B2
Step D: (3R)-tert-butyl 4-(2-(2-chloro-3-cyano-4-fluorophenyl)-2-hydroxyethyl)-3-(hydroxymethyl)piperazine-1-carboxylate
2-Chloro-6-fluoro-3-(oxiran-2-yl)benzonitrile (9.1 g, 46 mmol) and (R)-tert-butyl 3-(hydroxymethyl)piperazine-1-carboxylate (14.9 g, 69.1 mmol) were dissolved in ethanol (105 mL) and dispensed into 9 sealed tubes then microwaved at 140° C. for 1 h. The combined reaction mixture was concentrated and purified through a 330 g ISCO Redi-sep column with 50%-100 ethyl acetate/hexane solvent system to yield the title compound.

reactant | 2-Chloro-6-fluoro-3-(oxiran-2-yl)benzonitrile | 46 mmol, 9.1 g | ClC1=C(C#N)C(=CC=C1C1OC1)F | C9H5ClFNO
reactant | (R)-tert-butyl 3-(hydroxymethyl)piperazine-1-carboxylate | 69.1 mmol, 14.9 g | OC[C@H]1CN(CCN1)C(=O)OC(C)(C)C | C10H20N2O3
solvent | ethanol | 105 mL | C(C)O | C2H6O
product | (3R)-tert-butyl 4-(2-(2-chloro-3-cyano-4-fluorophenyl)-2-hydroxyethyl)-3-(hydroxymethyl)piperazine-1-carboxylate | ClC1=C(C=CC(=C1C#N)F)C(CN1[C@H](CN(CC1)C(=O)OC(C)(C)C)CO)O | C19H25ClFN3O4
